US06538168B1
In the etherification step, isobutene is reacted with alcohols, preferably with isobutanol, over an acid catalyst, preferably over an acid ion exchanger, to form ethers, preferably isobutyl tert-butyl ether. In one embodiment of the invention, the reaction is carried out in a three-stage reactor cascade in which the reaction mixture flows from the top downward through flooded fixed-bed catalysts. In the first reactor, the inlet temperature is from 0 to 60° C., preferably from 10 to 50° C.; the outlet temperature is from 25 to 85° C., preferably from 35 to 75° C., and the pressure is from 2 to 50 bar, preferably from 3 to 20 bar. At a ratio of isobutanol to isobutene of from 0.8 to 2.0, preferably from 1.0 to 1.5, the conversion is from 70 to 90%.

reactant | isobutene | C=C(C)C | C4H8
reactant | isobutanol | C(C(C)C)O | C4H10O
product | isobutyl tert-butyl ether | C(C)(C)(C)OCC(C)C | C8H18O
